US06642229B2
4-Fluoro-3′-nitrobiphenyl-2-carbonitrile was reduced by treatment with tin(II) chloride in ethanol and tetrahydrofuran to give 3′-amino-4-fluorobiphenyl-2-carbonitrile as a brown solid: δH (360 MHz, CDCl3) 6.76 (1H, ddd, J 8, 2 and 2), 6.80 (1H, dd, J 2 and 2), 6.87 (1H, ddd, J 8, 1 and 1), 7.27 (1H, dd, J 8 and 8), 7.35 (1H, ddd, J 8, 8 and 3), 7.41-7.51 (2H, m).

reactant | 4-Fluoro-3′-nitrobiphenyl-2-carbonitrile | FC=1C=C(C(=CC1)C1=CC(=CC=C1)[N+](=O)[O-])C#N | C13H7FN2O2
reactant | tin(II) chloride | [Sn](Cl)Cl
solvent | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3′-amino-4-fluorobiphenyl-2-carbonitrile | NC=1C=C(C=CC1)C=1C(=CC(=CC1)F)C#N | C13H9FN2
